US04189484
2-{4-[3-(Furan-3-yl)-acryloyl]-piperazin-1-yl}-4-amino-6,7-dimethoxyquinazoline
To a mixture of 276 mg. (2 mM) of 3-(furan-3-yl)acrylic acid, and 242 mg. (2.4 mM) of triethylamine in 10 ml. of ethyl acetate was added dropwise under ice-cooling a solution of 260 mg. (2.4 mM) of ethyl chlorocarbonate in 5 ml. of ethyl acetate. The resulting mixture was stirred for 3 hours and 761 mg. (2 mM) of 2-piperazine-4-amino-6,7-dimethoxyquinazoline and 484 mg. (4.8 mM) of triethylamine were odded thereto. Stirring was continued at room temperature for further one day. The precipitate thus separated was recovered by filtration and washed well with water to give 480 mg. of the desired product.

reactant | 3-(furan-3-yl)acrylic acid | 2 mM | O1C=C(C=C1)C=CC(=O)O | C7H6O3
reactant | ethyl chlorocarbonate | 2.4 mM | C(OCC)(=O)Cl | C3H5ClO2
reactant | 2-piperazine-4-amino-6,7-dimethoxyquinazoline | 2 mM | COC1=C(C=C2C(=C1)C(=NC(=N2)N3CCNCC3)N)OC | C14H19N5O2
solvent | triethylamine | 4.8 mM | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 2.4 mM | C(C)N(CC)CC | C6H15N
product | 2-{4-[3-(Furan-3-yl)-acryloyl]-piperazin-1-yl}-4-amino-6,7-dimethoxyquinazoline | Yield 59% | O1C=C(C=C1)C=CC(=O)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C21H23N5O4
